US05243054
45a) 4,-Methyl-2-hydroxymethylbiphenyl
To an ice-cooling suspension of lithium aluminium hydride (1.79 g) in tetrahydrofuran (50 ml) was added dropwise a solution of 4,-methylbiphenyl-2-carboxylic acid (5.0 g) in tetrahydrofuran (30 ml). The mixture was stirred for 17 hours at room temperature. To the reaction mixture were added ethyl acetate (10 ml) and water (50 ml), and insoluble materials were removed by filtration through celite. The filtrate was concentrated to dryness, and the residue was dissolved in ethyl acetate. The solution was washed with a saturated aqueous solution of sodium hydrogencarbonate and dried. The solvent was evaporated under reduced pressure, and the residue was purified by column chromatography on silica gel to afford the title compound as colorless syrup (3.95 g, 84%).

reactant | lithium aluminium hydride | 1.79 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methylbiphenyl-2-carboxylic acid | 5.0 g | CC1=C(C(=CC=C1)C1=CC=CC=C1)C(=O)O | C14H12O2
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Methyl-2-hydroxymethylbiphenyl | 3.95 g, 84% | CC=1C(=C(C=CC1)C1=CC=CC=C1)CO | C14H14O
